US04734429
A mixture of 19.4 g of 4,5,6,7-tetrahydro-3-methyl-3H-cyclohepta[1,2-c:4,3-c']dipyrazole in 70 ml of N,N-dimethylformamide was added, dropwise, to a suspension of 2.64 g of sodium hydride in 200 ml of N,N-dimethylformamide and the resulting mixture was stirred at room temperature for 15 minutes. A solution of 12.5 ml of methyl iodide in 20 ml of N,N-dimethylformamide was added dropwise and the reaction mixture was stirred at room temperature for 3 hours. The solvent was removed under reduced pressure and the residue was partitioned between dichloromethane and water. The aqueous layer was extracted several times with dichloromethane and the combined dichloromethane layers were washed with brine, dried over magnesium sulfate and concentrated under reduced pressure to give a tan powder which was shown to be a 50:50 mixture of the 2,7-dimethyl and 3,7-dimethyl products as shown by 1H NMR. The tan powder was recrystallized from toluene to give a tan solid which was again recrystallized from toluene to give 4,5,6, 7-tetrahydro-3,7-dimethyl-3H-cyclohepta[1,2-c:4,3-c']dipyrazole as tan needles melting at about 191°-195° C.

reactant | 4,5,6,7-tetrahydro-3-methyl-3H-cyclohepta[1,2-c:4,3-c']dipyrazole | 19.4 g | CN1N=CC2=C1CCCC=1NN=CC12 | C10H12N4
reactant | sodium hydride | 2.64 g | [H-].[Na+]
reactant | methyl iodide | 12.5 ml | CI | CH3I
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4,5,6, 7-tetrahydro-3,7-dimethyl-3H-cyclohepta[1,2-c:4,3-c']dipyrazole | CN1N=CC2=C1CCCC=1N(N=CC12)C | C11H14N4
